US07576215B2
[4-[3-(2-NAPHTHYLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)-METHANONE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 2-Bromomethyl-naphthalene following the procedure of Example 478: MS (ESI) m/z 534.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 2-Bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | [4-[3-(2-NAPHTHYLMETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PHENYL)-METHANONE | C1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C34H22F3NO2
